*NDT410EL ELECTRICAL MODEL (PowerSOT SOT-223 N-Ch DMOS)

* -------------------------

.SUBCKT  NDT410EL  20  10  30

Rg  10  1  3

M1   2  1  3   3   DMOS    L=1u   W=1u

.MODEL  DMOS  NMOS(VTO={1.5*{-0.00336*TEMP+1.084}}  KP={-0.01*TEMP+5.45}

+   THETA=0.086  VMAX=2.2E5  LEVEL=3)

Cgs   1  3   500p

Rd   20  4    80m TC=0.0092

Dds   3  4   DDS

.MODEL   DDS   D(BV={100*{0.0008*TEMP+0.98}}   M=0.36  CJO=303p   VJ=1.18)

Dbody   3   20   DBODY

.MODEL   DBODY   D(IS=1.4E-13   N=1   RS=119m   TT=53n)

Ra    4    2    80m TC=0.0092

Rs    3    5    2m

Ls    5    30   5n

M2    1    8   6   6   INTER

E2    8    6   4   1   2

.MODEL   INTER   NMOS(VTO=0  KP=10   LEVEL=1)

Cgdmax   7   4    1300p

Rcgd     7   4    10meg

Dgd      6   4    DGD

Rdgd     4   6    10meg

.MODEL    DGD   D(M=0.51  CJO=500p   VJ=0.047)

M3     7   9   1   1   INTER

E3     9   1   4   1   -2

.ENDS NDT410EL

*

*

* NDT410EL THERMAL MODEL

* ---------------------

.SUBCKT   410ELTHM   50  40  100



Rop       50   60   1meg                         ; From input power, use ideal

Cop       60   70   1u   IC=0                    ; opamp to get energy W(t),

E_W       40   70   40   60  1meg                ; assume Rin=infinite & Ro=0



E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)} ; Get average power by W(t)/t

R80       80   40   1k



E_Tja     100   40   VALUE = {V(80,40)*110*V(90,40)}; Tja=Pave(t)*RJA*rja(t)

R100      100   40   1k



R90       90   40   1k

E_rja     90   40   table {TIME}              ; Normalized NDT410EL Single Pulsed rja(t)

+ (0.0001,  0.002232)

+ (0.0002,  0.003156)

+ (0.0005,  0.00499)

+ (0.001,   0.007057)

+ (0.002,   0.00998)

+ (0.005,   0.01578)

+ (0.01,    0.022316)

+ (0.02,    0.03156)

+ (0.05,    0.049901)

+ (0.1,     0.070571)

+ (0.2,     0.099802)

+ (0.5,     0.157801)

+ (1,       0.223165)

+ (2,       0.304706)

+ (5,       0.430226)

+ (10,      0.532168)

+ (20,      0.641667)

+ (50,      0.789139)

+ (100,     0.876999)

+ (200,     0.940897)

+ (500,     1)

+ (999,     1)

.ENDS 410ELTHM

