* SFP55N06 ELECTRICAL MODEL (TO-220 N-Ch DMOS)
* ------------------------
.SUBCKT  SFP55N06  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={3.25*{-0.0005*TEMP+1.0125}} KP={95*{-0.00001*TEMP+1.00025}}
+  THETA=0.072  VMAX=6.2E4  LEVEL=3)
Cgs     1    3    3000p
Rd     20    4    6m TC=0.0055
Dds     3    4    DDS
.MODEL     DDS    D(BV={60*{0.0008*TEMP+0.98}}   M=0.51  CJO=240p   
+ VJ=0.71*{-0.0022*TEMP+1.055})
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.5E-12   N=1  RS=6m  EG=1.05  TT=87n)
Ra      4    2    3m TC=0.0055
Rs      3    5    1m
Ls      5    30   1.25n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    4500p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.67   CJO=4500p   VJ=0.96)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS SFP55N06
